US04622417
A. N-Carbenzyloxy (CBZ)-L-serine methyl ester
N-CBZ-L-serine (25 g) was dissolved in 100 ml of dry N, N-dimethylformamide at 0° C. under argon. Triethylamine (2 e.g., 30 ml) and dimethylsulfate (20 ml) were added. The contents of the vessel were stirred overnight at room temperature and then poured into 500 ml of water and extracted with ethyl acetate (3×200 ml). The organic layer was washed with water and brine and dried with sodium sulfate. Rotary evaporation afforded an oil which crystallized after silica gel chromatography in pure diethyl ether. The structure of the product, N-CBZ-L-serine methyl ester, was confirmed by NMR spectroscopy.

reactant | N-CBZ-L-serine | 25 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | Triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfate | 20 ml | COS(=O)(=O)OC | C2H6O4S
reactant | water | 500 ml | O | H2O
solvent | N, N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (CBZ)-L-serine methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C12H15NO5
